US06462081B1
3-Bromomethylphenylacetic Acid
To a solution of 3-methylphenylacetic acid (125 g) in tetrachloro methane (1660 ml), N-bromosuccinimide (148 g) and 2,2′-azobisisobutyronitrile (AIBN; 1.37 g) were added. The mixture was refluxed with heating. After termination of reaction, the solution was cooled with ice. The white precipitate was filtered by glass-filter. The filtrate was washed by tetrachloro methane. The filtrate together with washing liquid was concentrated. The obtained residue was dissolved into ethyl acetate. Thereto, hexane was added. The mixture was crystallized to obtain the title compound (59 g).

reactant | 3-methylphenylacetic acid | 125 g | CC=1C=C(C=CC1)CC(=O)O | C9H10O2
reactant | N-bromosuccinimide | 148 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrachloro methane | 1660 ml | ClC(Cl)(Cl)Cl | CCl4
catalyst | 2,2′-azobisisobutyronitrile | 1.37 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 3-Bromomethylphenylacetic Acid | 59 g | BrCC=1C=C(C=CC1)CC(=O)O | C9H9BrO2
